US07915281B2
An aqueous solution (1.5 L) of sodium dithionate (265 g, 1.52 mol) was added to a solution of 2-chloro-3-nitro-N-prop-2-ynylquinolin-4-amine (79.3 g, 0.303 mol) in ethanol (750 mL) and acetonitrile (950 mL). A fine white precipitate formed within seconds. The reaction was worked-up after thin layer chromatography (TLC) analysis of the reaction mixture indicated that the reaction was complete. The solids were removed by filtration and the filter cake was rinsed with dichloromethane. The filtrate was concentrated under reduced pressure to remove the volatiles, leaving an aqueous solution that was extracted with several portions of dichloromethane. The organic layers were combined, washed with brine, dried over magnesium sulfate, filtered, and concentrated to yield 2-chloro-N4-prop-2-ynylquinoline-3,4-diamine (43.5 g) that was approximately 60% pure and was used without further purification.

reactant | sodium dithionate | 1.52 mol, 1.5 L, 265 g | S(=O)(=O)([O-])S(=O)(=O)[O-].[Na+].[Na+]
reactant | 2-chloro-3-nitro-N-prop-2-ynylquinolin-4-amine | 0.303 mol, 79.3 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCC#C | C12H8ClN3O2
solvent | ethanol | 750 mL | C(C)O | C2H6O
solvent | acetonitrile | 950 mL | C(C)#N | C2H3N
product | 2-chloro-N4-prop-2-ynylquinoline-3,4-diamine | 43.5 g | ClC1=NC2=CC=CC=C2C(=C1N)NCC#C | C12H10ClN3
